US08802659B2
5-(4-Trifluoromethyl-cyclohexyloxy)-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester
A mixture of 5-hydroxy-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester (0.33 g, 1.4 mmol), cesium carbonate (0.93 g, 2.8 mmol), and methanesulfonic acid 4-trifluoromethyl-cyclohexyl ester (0.70 g, 2.8 mmol) in t-BuOH (5 mL) and 2-butanone (2.5 mL) was heated in a sealed vial at 100° C. overnight. The mixture was treated with dichloromethane to form precipitate. The solid was filtered off and the filtrate was concentrated. The residue was treated with minimum of amount dichloromethane to form solid during 2 days. The solid was filtered and washed with ether to give desired product (200 mg, yield: 40%). ESI-MS: 408.20 (M+23)+.

reactant | 5-hydroxy-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 1.4 mmol, 0.33 g | C(C)(C)(C)OC(=O)N1CCC2=CC(=CC=C12)O | C13H17NO3
reactant | cesium carbonate | 2.8 mmol, 0.93 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methanesulfonic acid 4-trifluoromethyl-cyclohexyl ester | 2.8 mmol, 0.70 g | FC(C1CCC(CC1)OS(=O)(=O)C)(F)F | C8H13F3O3S
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | t-BuOH | 5 mL | CC(C)(C)O | C4H10O
solvent | 2-butanone | 2.5 mL | CC(CC)=O | C4H8O
product | 5-(4-Trifluoromethyl-cyclohexyloxy)-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 200 mg, yield: 40% | C(C)(C)(C)OC(=O)N1CCC2=CC(=CC=C12)OC1CCC(CC1)C(F)(F)F | C20H26F3NO3
